US04448964
Then, 11.8 g of the 1-benzyl-3-hydroxypiperidine and 5.6 g of diketene were reacted similarly as in Reference Example 1, and the reaction product was purified by silica gel column chromatography (eluent:chloroform:methanol=9:1 v/v), to obtain 10.65 g of acetoacetic acid-N-benzyl-3-piperidinyl ester (yield: 62.5%). This was used in the reaction of Example 4 without distillation.

reactant | 1-benzyl-3-hydroxypiperidine | 11.8 g | C(C1=CC=CC=C1)N1CC(CCC1)O | C12H17NO
reactant | diketene | 5.6 g | C=C1CC(=O)O1 | C4H4O2
product | acetoacetic acid-N-benzyl-3-piperidinyl ester | 10.65 g, yield: 62.5% | C(C1=CC=CC=C1)N1CC(CCC1)OC(CC(=O)C)=O | C16H21NO3
